US08808703B2
Step 5: 6-((R)-2-amino-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)hexanoic acid
To a solution of (R)-3-((R)-2-amino-3-(6-(benzyloxy)-6-oxohexylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate in EtOH (0.1 M) was added palladium black (2 eq). The reaction mixture was stirred under hydrogen (1 atm) overnight. The palladium was filtered off and the filtrate was concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM to give the product as an off-white solid. 1H NMR (CDCl3): δ 7.33 (t, 1H), 5.06-5.15 (m, 1H), 4.30 (dd, 1H), 4.08 (dd, 1H), 3.43 (dd, 1H), 3.20-3.31 (m, 1H), 3.09-3.19 (m, 1H), 3.04 (dd, 1H), 2.61-2.74 (m, 3H), 2.21-2.31 (m, 6H), 1.84-2.06 (m, 3H), 1.40-1.63 (m, 8H), 1.28-1.37 (m, 2H), 1.12-1.28 (m, 32H), 0.81 (t, 6H). LRMS [M+H]=673.5.

reactant | (R)-3-((R)-2-amino-3-(6-(benzyloxy)-6-oxohexylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate | C(CCCCCCCCCCC)(=O)OC[C@H](CSC[C@@H](C(=O)NCCCCCC(=O)OCC1=CC=CC=C1)N)OC(CCCCCCCCCCC)=O | C43H74N2O7S
solvent | EtOH | 0.1 M | CCO | C2H6O
catalyst | palladium black | 2 eq | [Pd] | Pd
product | 6-((R)-2-amino-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)hexanoic acid | N[C@H](C(=O)NCCCCCC(=O)O)CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O | C36H68N2O7S
